US09340538B2
2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)acetic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.7 g, 1.4 mmol) was reacted with 2-(morpholin-3-yl)acetic acid hydrochloride (0.25 g, 1.4 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a pale yellow solid (0.57 g, 72%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.4 mmol, 0.7 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | 2-(morpholin-3-yl)acetic acid hydrochloride | 1.4 mmol, 0.25 g | Cl.N1C(COCC1)CC(=O)O
product | 2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)acetic acid | 0.57 g, 72% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)CC(=O)O)C(=O)OCC | C23H24BrFN4O5S
